US07022725B2
To a solution of methyl 3-[5-(4-methylthiophenyl)-4-isoxazolyl]propionate (1.60 g) in tetrahydrofuran (60 ml) was gently added diisobutylaluminum hydride (0.95 M toluene solution, 15.2 ml) at 0° C., and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into dilute hydrochloric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and the crystals obtained from a fraction eluted with acetone-hexane (1:1, volume ratio) were recrystallized from ethyl acetate-hexane to give 3-[5-(4-methylthiophenyl)-4-isoxazolyl]propan-1-ol as a colorless prism crystal (1.36 g, yield 95%). melting point: 54–55° C.

reactant | methyl 3-[5-(4-methylthiophenyl)-4-isoxazolyl]propionate | 1.60 g | CSC1=CC=C(C=C1)C1=C(C=NO1)CCC(=O)OC | C14H15NO3S
reactant | diisobutylaluminum hydride | 0.95 M, 15.2 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 3-[5-(4-methylthiophenyl)-4-isoxazolyl]propan-1-ol | CSC1=CC=C(C=C1)C1=C(C=NO1)CCCO | C13H15NO2S
